US06605741B2
To a solution of the crude product (4.71 g) in THF (50 ml) was dropwise added a solution of lithium aluminum hydrate tri-tert-butoxide (6.1 g) in THF (50 ml) and then stirred for 1.5 hours at room temperature. The reaction mixture which volume was reduced to about 50 ml by partial evaporation of the solvent under reduced pressure, was poured into 1N hydrochloric acid (200 ml) and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine successively, and then dried over magnesium sulfate anhydride. The solvent was evaporated under reduced pressure to give methyl 9-oxononanate (3.33 g 89.3%).

reactant | lithium aluminum hydrate tri-tert-butoxide | 6.1 g | CC(C)([O-])C.CC(C)([O-])C.CC(C)([O-])C.O.[Al+3].[Li+]
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | methyl 9-oxononanate | 3.33 g, 89.3% | O=CCCCCCCCC(=O)OC | C10H18O3
